US07691876B2
1H-Pyrrolo[2,3-c]pyridine-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-3-trifluoromethyl-phenyl)-ethyl]-amide (B1.1)
Trimethylaluminum solution (2 M in heptane, 0.14 mL, 0.28 mmol) was added at RT to a solution of (4-tert-butyl-benzyl)-[2-(4-fluoro-3-trifluoromethyl-phenyl)-ethyl]-amine (100 mg, 0.28 mmol) in dichloromethane (0.7 mL), then after 15 min a solution of 1H-pyrrolo[2,3-c]pyridine-7-carboxylic acid methyl ester (50 mg, 0.14 mmol) in dichloromethane was added. After 2 h the reaction mixture was partitioned between ethyl acetate and 2 M aq. hydrochloric acid solution. The organic layer was washed with brine, dried (MgSO4), evaporated, and chromatographed (SiO2, heptane/ethyl acetate gradient), to afford the title compound (70 mg, 50%). White foam, MS (ISP) 498.3 (M+H)+.

reactant | Trimethylaluminum | 0.28 mmol, 2 M, 0.14 mL | C[Al](C)C
reactant | (4-tert-butyl-benzyl)-[2-(4-fluoro-3-trifluoromethyl-phenyl)-ethyl]-amine | 0.28 mmol, 100 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C20H23F4N
reactant | 1H-pyrrolo[2,3-c]pyridine-7-carboxylic acid methyl ester | 0.14 mmol, 50 mg | COC(=O)C=1N=CC=C2C1NC=C2 | C9H8N2O2
solvent | dichloromethane | 0.7 mL | ClCCl | CH2Cl2
product | 1H-Pyrrolo[2,3-c]pyridine-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-3-trifluoromethyl-phenyl)-ethyl]-amide | 70 mg, 50% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2N=CC=C3C2NC=C3)CCC3=CC(=C(C=C3)F)C(F)(F)F)C=C1 | C28H27F4N3O
